US08039455B2
d) 3-Hydroxy-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid
To the solution of 1.33 g (6.0 mmol) 3-amino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid in 15 ml water and 0.75 ml (13.3 mmol, 2.2 eq) concentrated sulfuric at 0° C. are added 0.56 g (8.2 mmol, 1.35 eq) sodium nitrit. After addition of 10 ml water the reaction is heated to 90° C. After cooling to rt the reaction is extracted with EtOAc, the organic layer is dried over sodium sulfate and the solvent is evaporated at reduced pressure to give the product.

reactant | 3-amino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid | 6.0 mmol, 1.33 g | NC=1C=C(C(=O)O)C=C(C1)N1C(CCC1)=O | C11H12N2O3
reactant | sodium nitrit | 8.2 mmol, 0.56 g, 1.35 eq | N(=O)[O-].[Na+]
solvent | water | 15 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3-Hydroxy-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid | OC=1C=C(C(=O)O)C=C(C1)N1C(CCC1)=O | C11H11NO4
